US06353006B1
2-Hydroxyethylamine and cyclopentanone were reacted according to Method B4b, Step 1 to afford 4-aza-1-oxaspiro[4.4]nonane. The oxazolidine was reduced according to method B4b, Step 2 to afford N-cyclopentyl-N-(2-hydroxyethyl)amine. The alcohol was reacted with SOCl2 according to Method B7c to afford N-cyclopentyl-N-(2-chloroethyl)amine. The amine was reacted with 2-methyl-4-nitrophenyl isothiocyanate according to Method C1d to afford 2-(2-methyl-4-nitrophenylimino)-3-(cyclopentyl)-1,3-thiazolidine.

reactant | 2-Hydroxyethylamine | OCCN | C2H7NO
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
product | 4-aza-1-oxaspiro[4.4]nonane | O1CCNC12CCCC2 | C7H13NO
